US07091353B2
A mixture of tert-butyl 2-(4-bromo-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate (1.2 g, 3.02 mmol), zinc cyamide (0.21 g, 1.81 mmol), tris(dibenzylideneacetone)dipalladium (0.06 g, 0.06 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.067 g, 0.12 mmol) in deoxygenated DMF (15 mL) was heated to 120° C. under N2 for 6 hours. The mixture was cooled to room temperature and poured into EtOAc (100 mL) and sat. NaHCO3 (40 mL). The EtOAc solution was washed with water (2×40 mL), brine (40 mL), and dried (MgSO4). Solvent was removed and the residue was purified by chromatography (CH2Cl2:CH3OH 97.5:2.5) to afford tert-butyl 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate (0.77 g, 74%): 1H NMR (CDCl3) δ 8.07–8.03 (dd, J=0.7 and 7.4 Hz, 1H), 7.86–7.83 (dd, J=1.0 and 7.9 Hz, 1H), 7.61 (t, J=7.6 Hz, 1H), 5.91 (s, 1H), 5.68 (s, 1H), 5.03–4.98 (m, 1H), 4.85 (d, J=17.9 Hz, 1H), 4.62 (d, J=17.9 Hz, 1H), 2.48–2.41(m, 4H), 1.46 (s, 9H); 13C NMR (CDCl3) δ 173.56, 169.21, 167.70, 145.23, 134.94, 133.11, 128.93, 128.21, 115.65, 107.86, 82.98, 63.68, 54.47, 46.55, 32.34, 27.95, 25.46.

reactant | tert-butyl 2-(4-bromo-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate | 3.02 mmol, 1.2 g | BrC1=C2CN(C(C2=CC=C1)=O)C(C(=O)OC(C)(C)C)CCC(N)=O | C17H21BrN2O4
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | zinc | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.06 mmol, 0.06 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.12 mmol, 0.067 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl 2-(4-cyano-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate | 0.77 g, 74% | C(#N)C1=C2CN(C(C2=CC=C1)=O)C(C(=O)OC(C)(C)C)CCC(N)=O | C18H21N3O4
